US06841549B1
5-[6-(Dimethylamino)-8-(3-fluorophenyl)-9H-9-purinyl]-1-methyl-1,2-dihydro-2-pyridinone hydrochloride
60 to 70% sodium hydride (28 mg, 0.700 mmol) was added to a suspension of 5-[6-(dimethylamino)-8-(3-fluorophenyl)-9H-9-purinyl]-1,2-dihydro-2-pyridinonehydrochloride (130 mg, 0.336 mmol) in Example 4 in N,N-dimethylformamide (3 ml), and the mixture was stirred in a nitrogen atmosphere at 0 to 6° C. After 1 hour, iodomethane (23 μl, 0.369 mmol) was added thereto and stirred. After 30 minutes, 60 to 70% sodium hydride (17 mg, 0.425 mmol) was added thereto, and 30 minutes thereafter, additional iodomethane (23 μl, 0.369 mmol) was added thereto and stirred. After 30 minutes, the reaction solution was diluted with a saturated aqueous ammonium chloride solution and ethyl acetate. The organic layer was washed with a saturated aqueous ammonium chloride solution (×1) and then extracted with 1N hydrochloric acid (×1). The 1N hydrochloric acid layer was adjusted to pH 9-10 with IN aqueous sodium hydroxide solution and extracted with ethyl acetate (×1). The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was dissolved in methanol-4N hydrochloric acid/ethyl acetate (1.5 ml) and concentrated. The residue was crystallized from methanol/diethyl ether, and then the solid was collected by filtration and washed with diethyl ether, to give the title compound (90 mg, 67%) as a colorless solid.

reactant | sodium hydride | 0.700 mmol, 28 mg | [H-].[Na+]
reactant | 5-[6-(dimethylamino)-8-(3-fluorophenyl)-9H-9-purinyl]-1,2-dihydro-2-pyridinonehydrochloride | 0.336 mmol, 130 mg | Cl.CN(C1=C2N=C(N(C2=NC=N1)C=1C=CC(NC1)=O)C1=CC(=CC=C1)F)C
reactant | iodomethane | 0.369 mmol, 23 μl | IC | CH3I
reactant | sodium hydride | 0.425 mmol, 17 mg | [H-].[Na+]
reactant | iodomethane | 0.369 mmol, 23 μl | IC | CH3I
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[6-(Dimethylamino)-8-(3-fluorophenyl)-9H-9-purinyl]-1-methyl-1,2-dihydro-2-pyridinone hydrochloride | 90 mg, 67% | Cl.CN(C1=C2N=C(N(C2=NC=N1)C=1C=CC(N(C1)C)=O)C1=CC(=CC=C1)F)C | InChI=1S/C19H17FN6O.ClH/c1-24(2)18-16-19(22-11-21-18)26(14-7-8-15(27)25(3)10-14)17(23-16)12-5-4-6-13(20)9-12;/h4-11H,1-3H3;1H
